US09260439B2
Step 6: Preparation of 5-{7-[(3S)-1-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)-3-methylpyrrolidin-3-yl]-2-(morpholin-4-yl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine
Methyl iodide (15.2 μL, 0.24 mmol) was added to a solution of (S)-3-(4-(2-aminopyrimidin-5-yl)-2-morpholino-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-N-(1-hydroxy-2-methylpropan-2-yl)-3-methylpyrrolidine-1-carbothioamide (38.0 mg, 0.074 mmol) and diisopropylethylamine (28.3 μL, 0.16 mmol) in DCM (0.74 mL) and ethanol (0.74 mL) and the mixture was stirred at room temperature for 23 h. The reaction mixture was partitioned between DCM and 50% brine solution. The organic layer was separated, dried with Na2SO4, filtered and concentrated. The residue was purified by preparative SFC (Cosmosil 3-hydroxyphenyl bonded 150×21.2 mm, 5 μm, 100A column) eluting with 15%-50% CO2 in MeOH with a flow rate of 80 mL/min, at 100 bar to give the title compound (12.9 mg, 36%) as a white solid. 1H NMR (700 MHz, DMSO-d6) δ 8.72 (s, 2 H), 6.99 (s, 2 H), 3.94-3.86 (m, 2 H), 3.74 (d, J=10.4 Hz, 1 H), 3.68-3.59 (m, 8H), 3.55-3.52 (m, 1 H), 3.11-3.06 (m, 2 H), 2.41 (dt, J=12.4, 7.9 Hz, 1 H), 2.10 (ddd, J=12.4, 7.3, 5.0 Hz, 1 H), 1.29 (s, 3 H), 1.17-1.10 (m, 6 H). m/z (APCI+) for C24H33N9O2 479.9 (M+H)+.

reactant | Methyl iodide | 0.24 mmol, 15.2 μL | CI | CH3I
reactant | (S)-3-(4-(2-aminopyrimidin-5-yl)-2-morpholino-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-N-(1-hydroxy-2-methylpropan-2-yl)-3-methylpyrrolidine-1-carbothioamide | 0.074 mmol, 38.0 mg | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)[C@@]2(CN(CC2)C(NC(CO)(C)C)=S)C | C24H35N9O2S
reactant | diisopropylethylamine | 0.16 mmol, 28.3 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 0.74 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 0.74 mL | C(C)O | C2H6O
product | 5-{7-[(3S)-1-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)-3-methylpyrrolidin-3-yl]-2-(morpholin-4-yl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine | 12.9 mg, 36% | CC1(N=C(OC1)N1C[C@@](CC1)(C)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2CCOCC2)C | C24H33N9O2
